.title ratio_XNOR2
.include "C:/Users/chris/ngspice/Prompts/autohv_bicmos180_pdk/autohv_bicmos180_case.lib"
.param case=0
.param VDD=1.8
.param S=1.0
.param R=0.3
Vdd vdd 0 1.8
Vin in 0 0.9
X1 abar in vdd vdd PMOS18 W={(S*4.6458365997477795)*1e-6} L=0.18u
X2 abar in 0 0 NMOS18 W={(S)*1e-6} L=0.18u
X3 bbar vdd vdd vdd PMOS18 W={(S*4.6458365997477795)*1e-6} L=0.18u
X4 bbar vdd 0 0 NMOS18 W={(S)*1e-6} L=0.18u
X5 out in m1 0 NMOS18 W={(S)*1e-6} L=0.18u
X6 m1 bbar 0 0 NMOS18 W={(S)*1e-6} L=0.18u
X7 out abar m2 0 NMOS18 W={(S)*1e-6} L=0.18u
X8 m2 vdd 0 0 NMOS18 W={(S)*1e-6} L=0.18u
X9 out abar k1 vdd PMOS18 W={(S*R)*1e-6} L=0.18u
X10 k1 bbar vdd vdd PMOS18 W={(S*R)*1e-6} L=0.18u
X11 out in k2 vdd PMOS18 W={(S*R)*1e-6} L=0.18u
X12 k2 vdd vdd vdd PMOS18 W={(S*R)*1e-6} L=0.18u
.control
let half = 0.9
foreach rr 0.3000 0.5000 0.8000 1.2000 1.8000 2.6000 3.6000 5.0000 7.0000 10.0000 14.0000 19.0000 25.0000 32.0000
  alterparam R=$rr
  reset
  dc Vin 0 1.8 0.0045000000000000005
  meas dc vm find v(in) when v(out)=$&half cross=1
  echo "RES R=$rr vm=$&vm"
end
.endc
.end
